US05623049
N-(2-Hydroxyethyl)-glycine tert-butyl ester
The compound is prepared, in analogy with Example 1, from ethanolamine (18.33 g; 0.3 mol) and tert-butyl bromoacetate 58.6 g; 0.3 mol) in the presence of triethylamine (30.7 g; 0.3 mol) in anhydrous N,N-dimethylformamide (300 ml). The crude product is purified by chromatography on silica gel (eluent: chloroform/methanol, 16:1). Yield: 33.65 g (64%).

reactant | ethanolamine | 0.3 mol, 18.33 g | C(O)CN | C2H7NO
reactant | tert-butyl bromoacetate | 58.6 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | triethylamine | 0.3 mol, 30.7 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | N-(2-Hydroxyethyl)-glycine tert-butyl ester | C(C)(C)(C)OC(CNCCO)=O | C8H17NO3
